US07994205B2
Ethyl 1-phenyl-2-(phenylthio)-1H-imidazole-4-carboxylate
Ethyl 1-(4-aminophenyl)-2-[(4-aminophenyl)thio]-1H-imidazole-4-carboxylate (1.90 g) was dissolved in concentrated hydrochloric acid (30 mL), and a solution of sodium nitrite (1.00 g) in water (5 mL) was added dropwise at 5-10° C. The mixture was stirred at the same temperature for 1 hr, and the obtained reaction mixture was added dropwise to 50% aqueous hypophosphorous acid solution (30 mL) by small portions. The mixture was stirred at room temperature for 3 hr, and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine in this order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound as a yellow oil (yield 1.17 g, 67%).

reactant | Ethyl 1-(4-aminophenyl)-2-[(4-aminophenyl)thio]-1H-imidazole-4-carboxylate | 1.90 g | NC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)OCC)SC1=CC=C(C=C1)N | C18H18N4O2S
reactant | sodium nitrite | 1.00 g | N(=O)[O-].[Na+]
reactant | hypophosphorous acid | 30 mL | [PH2](=O)O | H3O2P
solvent | hydrochloric acid | 30 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
product | Ethyl 1-phenyl-2-(phenylthio)-1H-imidazole-4-carboxylate | yield 1.17 g, 67% | C1(=CC=CC=C1)N1C(=NC(=C1)C(=O)OCC)SC1=CC=CC=C1 | C18H16N2O2S
